US08012976B2
(E)-4-(1-(4-Fluorophenyl)ethylideneamino)isobenzofuran-1(3H)-one
To a solution of 4-aminoisobenzofuran-1(3H)-one (1 g, 6.7 mmol) and 1-(4-fluorophenyl)ethanone (1.4 g, 10.1 mmol) in toluene (35 mL) was added anhydrous magnesium sulfate (8.8 g, 73.7 mmol) and acetic acid (0.2 mL) at room temperature under N2. The reaction mixture was then stirred at 120° C. for 36 hr. The reaction mixture was cooled to 90° C. and filtered. After filter cake was washed with acetonitrile, the filtrates were combined and evaporated to dryness to obtain yellow solid, which was washed by petroleum ether to obtain the title compound as a white solid (1.58 g, yield 88%). LC-MS (ESI) m/z: 270(M+1)+H-NMR (400 MHz, CDCl3) δ (ppm): 2.30 (s, 3H), 5.16 (s, 2H), 7.00-7.02 (d, J=7.6 Hz, 1H), 7.13-7.18 (m, 2H), 7.51-7.56 (t, J=7.6 Hz, 1H), 7.66-7.69 (d, J=7.6 Hz, 1H), 7.99-8.03 (m, 2H).

reactant | 4-aminoisobenzofuran-1(3H)-one | 6.7 mmol, 1 g | NC1=C2COC(C2=CC=C1)=O | C8H7NO2
reactant | 1-(4-fluorophenyl)ethanone | 10.1 mmol, 1.4 g | FC1=CC=C(C=C1)C(C)=O | C8H7FO
reactant | magnesium sulfate | 73.7 mmol, 8.8 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | acetic acid | 0.2 mL | C(C)(=O)O | C2H4O2
solvent | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
product | (E)-4-(1-(4-Fluorophenyl)ethylideneamino)isobenzofuran-1(3H)-one | 1.58 g, yield 88% | FC1=CC=C(C=C1)\C(\C)=N\C1=C2COC(C2=CC=C1)=O | C16H12FNO2
